US07538931B2
Hrz=2,2-Dimethyl-N,N-dipyridin-2-ylpropanamide
To a flask were added 2.0 g of 2,2′-dipyridylamine and 35 ml of acetonitrile. The solution was stirred under nitrogen and cooled to 5 C, when 1.5 g of triethylamine were added, followed by 1.5 g of trimethylacetyl chloride and the mixture was allowed to warm to 22 C. After 1 hour, 50 ml of water were added and the acetonitrile was removed. The product was extracted with ethyl acetate and washed with water. Following solvent removal, the product was purified by silica gel chromatography using 50% ethyl acetate in hexane, resulting in 1.8 g of an oil that solidified on standing.

reactant | 2,2′-dipyridylamine | 2.0 g | C1=CC=NC(=C1)NC2=CC=CC=N2 | C10H9N3
reactant | acetonitrile | 35 ml | C(C)#N | C2H3N
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 1.5 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | water | 50 ml | O | H2O
product | 2,2-Dimethyl-N,N-dipyridin-2-ylpropanamide | 1.8 g | CC(C(=O)N(C1=NC=CC=C1)C1=NC=CC=C1)(C)C | C15H17N3O
